US07087579B2
To a suspension of sodium hydride (60%, 0.97 g) in tetrahydrofuran (80 mL) was added methyl 4-(diethylphosphorylmethyl)benzoate (5.8 g) at 0° C., and the mixture was stirred for 30 minutes. To the reaction mixture was added a solution of propionaldehyde (1.6 mL) in tetrahydrofuran (10 mL), and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was extracted with diethyl ether. The organic layer was washed with water and dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=5/1) to give methyl (E)-4-(but-1-en-1-yl)benzoate (2.5 g).

reactant | sodium hydride | 0.97 g | [H-].[Na+]
reactant | methyl 4-(diethylphosphorylmethyl)benzoate | 5.8 g | C(C)P(=O)(CC)CC1=CC=C(C(=O)OC)C=C1 | C13H19O3P
reactant | propionaldehyde | 1.6 mL | C(CC)=O | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl (E)-4-(but-1-en-1-yl)benzoate | 2.5 g | C(=C\CC)/C1=CC=C(C(=O)OC)C=C1 | C12H14O2
